US08629168B2
(7-m-Tolyl-benzooxazol-2-yl)-(3,4,5-trimethoxy-phenyl)-amine
0.12 g (0.316 mmol) (7-bromo-benzooxazol-2-yl)-(3,4,5-trimethoxy-phenyl)-amine and 0.048 g (0.353 mmol) 3-tolyl boronic acid are dissolved in 4 ml 1,2-dimethoxy-ethane, a solution of 0.1 g (0.95 mmol) Na2CO3 (in 0.5 ml water) is added and a stream of argon is bubbled through the mixture in order to exclude oxygen from the reaction mixture. Tetrakis (triphenylphosphine) palladium (76 mg, 0.064 mmol) is added and the reaction mixture is stirred at 100° C. or 3 h. After that the reaction mixture is poured on water and extracted 3× with EtOAc. The combined organic layers are washed with water, dried over MgSO4, filtered and the filtrate is concentrated in vacuo. The residue is purified by chromatography (silicagel, hexane:EtOAc=3:1=>1:1) to afford the title compound as an off-white solid, m.p. 153-155° C. Rt=2.54 min (Waters Symmetry C8, 2.1×50 mm, detection 210-250 nM, 5% to 100% CH3CN in H2O in 2 min+0.05% TFA, flow rate 1.0 ml/min). MS: 391 (M+1)+; m.p. 155-158° C.

reactant | (7-bromo-benzooxazol-2-yl)-(3,4,5-trimethoxy-phenyl)-amine | 0.316 mmol, 0.12 g | BrC1=CC=CC=2N=C(OC21)NC2=CC(=C(C(=C2)OC)OC)OC | C16H15BrN2O4
reactant | 3-tolyl boronic acid | 0.353 mmol, 0.048 g | C1(=CC(=CC=C1)B(O)O)C | C7H9BO2
reactant | Na2CO3 | 0.95 mmol, 0.5 ml, 0.1 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxy-ethane | 4 ml | COCCOC | C4H10O2
catalyst | Tetrakis (triphenylphosphine) palladium | 0.064 mmol, 76 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (7-m-Tolyl-benzooxazol-2-yl)-(3,4,5-trimethoxy-phenyl)-amine | C1(=CC(=CC=C1)C1=CC=CC=2N=C(OC21)NC2=CC(=C(C(=C2)OC)OC)OC)C | C23H22N2O4
